### PR TITLE
feat: prove komlos_L1, assuming IsFiniteMeasure

### LINKED ISSUE #431: Komlós Lemma final step
This task is about proving `komlos_L1` in `BrownianMotion/StochasticIntegral/Komlos.lean` corresponding to (this lemma)[https://remydegenne.github.io/brownian-motion/blueprint/chap-doob_meyer.html#lem:komlos] in the blueprint. The proof only needs the previous lemma `komlos_convergence_L2` as well as some standard convergence arguments.

### PR DESCRIPTION
**Pull request by FrankieNC**
This is my attempt to prove `komlos_L1` in `BrownianMotion/StochasticIntegral/Komlos.lean` (blueprint Lemma 12.9).

## Statement change: added `[IsFiniteMeasure P]` — please check my reasoning

I could not make the proof work for a general measure, and I came to think the statement may not hold without some finiteness assumption. The example that convinced me: on ℝ with Lebesgue measure, take `f n` to be the indicator of `[n, n+1)`. This seems to satisfy `UniformIntegrable f 1 P`, but any weighted average of the later terms is a sum of indicators of disjoint intervals, so its L¹ norm is always exactly 1 — while the intervals it is supported on move further and further to the right. A sequence like that cannot converge in L¹: the limit would need norm 1, yet be zero on every bounded interval. So I don't see how the conclusion could hold there.

The blueprint states the lemma on a probability space. The proof only ever uses that `P(Ω)` is finite (to put the bounded truncations in L², and in the L²→L¹ comparison), so I went with `IsFiniteMeasure`, which every probability measure satisfies.

Please correct me if the general statement is provable and I just missed the argument.

Closes #431

### CODE REVIEW

File: BrownianMotion/StochasticIntegral/Komlos.lean [hunk 1]
```diff
@@ -365,11 +365,123 @@ lemma komlos_convergence_L2
     Tendsto (fun n ↦ eLpNorm (fun ω ↦ ((cw n).weights.sum (fun i wi ↦ wi • f' i n)) ω - lim ω) 2 P)
       atTop (𝓝 0) := by sorry
 
+private noncomputable def komlosTrunc (f : ℕ → Ω → E) (i m : ℕ) : Ω → E :=
+  ({ω : Ω | ‖f m ω‖ ≤ (i : ℝ)}).indicator (f m)
+
+omit [InnerProductSpace ℝ E] [CompleteSpace E] in
+private lemma komlosTrunc_tail_eLpNorm {P : Measure Ω} {f : ℕ → Ω → E}
```
Comment (TBUGTB) [inline BrownianMotion/StochasticIntegral/Komlos.lean:399]: Can you state this in terms of `Tendsto`? Maybe this will make using the lemma more elegant in `komlos_L1` (but I'm not sure)

File: BrownianMotion/StochasticIntegral/Komlos.lean [hunk 2]
```diff
@@ -365,11 +365,123 @@ lemma komlos_convergence_L2
...
+    ∃ i : ℕ, ∀ m, eLpNorm (f m - komlosTrunc f i m) 1 P ≤ ENNReal.ofReal ε := by
+  obtain ⟨C, hC⟩ := hf.spec one_ne_zero ENNReal.one_ne_top hε
+  refine ⟨⌈(C : ℝ)⌉₊, fun m ↦ le_trans (eLpNorm_mono fun ω ↦ ?_) (hC m)⟩
+  rw [komlosTrunc, ← Set.indicator_compl]
+  refine norm_indicator_le_of_subset (fun ω hω ↦ ?_) (f m) ω
+  have : (⌈(C : ℝ)⌉₊ : ℝ) < ‖f m ω‖ := by simpa using hω
+  exact (Nat.le_ceil (C : ℝ)).trans this.le
+
+omit [CompleteSpace E] in
+private lemma komlos_eLpNorm_stdSimplex_sum_le {P : Measure Ω} (w : StdSimplex ℝ ℕ)
```
Comment (TBUGTB) [inline BrownianMotion/StochasticIntegral/Komlos.lean]: I'd remove the prefix "komlos" from the name. And maybe this could live in the convex weights file since it's an auxiliary lemma that doesn't rely on `komlosFormula`/details of the construction. (Same remarks for the following lemma)

File: BrownianMotion/StochasticIntegral/Komlos.lean [hunk 3]
```diff
@@ -365,11 +365,123 @@ lemma komlos_convergence_L2
...
     ∃ (g : ℕ → Ω → E) (glim : Ω → E), (∀ n, g n ∈ convexHull ℝ (Set.range fun m ↦ f (n + m))) ∧
       Tendsto (fun n ↦ eLpNorm (g n - glim) 1 P) atTop (𝓝 0) := by
-  sorry
+  have hnorm i m ω : ‖komlosTrunc f i m ω‖ ≤ (i : ℝ) := by
+    by_cases h : ‖f m ω‖ ≤ (i : ℝ) <;> simp [komlosTrunc, h]
+  have hmeas i m : AEStronglyMeasurable (komlosTrunc f i m) P :=
+    (hf.1 m).indicator₀ (nullMeasurableSet_le (hf.1 m).norm.aemeasurable aemeasurable_const)
+  have hmem2 i m : MemLp (komlosTrunc f i m) 2 P :=
+    (memLp_top_of_bound (hmeas i m) _ (ae_of_all _ (hnorm i m))).mono_exponent le_top
+  have hbdd i : ∃ M, ∀ m, ‖(hmem2 i m).toLp (komlosTrunc f i m)‖ ≤ M :=
```
Comment (TBUGTB) [inline BrownianMotion/StochasticIntegral/Komlos.lean]: I think it might make sense to turn this and the preceeding have statements into lemmas. Since we have a new definition `komlosTrunc` it's also good to add some API.

File: BrownianMotion/StochasticIntegral/Komlos.lean [hunk 4]
```diff
@@ -365,11 +365,123 @@ lemma komlos_convergence_L2
...
+    ⟨_, fun m ↦ Lp.norm_le_of_ae_bound i.cast_nonneg <|
+      (hmem2 i m).coeFn_toLp.mono fun ω hω ↦ hω ▸ hnorm i m ω⟩
+  obtain ⟨η, hη0, hηlim⟩ := komlos_convex_weights_diagonal
+    (x := fun i m ↦ (hmem2 i m).toLp (komlosTrunc f i m)) hbdd
```
Comment (TBUGTB) [inline BrownianMotion/StochasticIntegral/Komlos.lean]: I think giving `x` explicitly isn't necessary here

File: BrownianMotion/StochasticIntegral/Komlos.lean [hunk 5]
```diff
@@ -365,11 +365,123 @@ lemma komlos_convergence_L2
...
+  choose G hG using hηlim
+  set g : ℕ → Ω → E := fun n ↦ (η n).weights.sum fun m c ↦ c • f m with hg_def
+  set T : ℕ → ℕ → Ω → E := fun i n ↦ (η n).weights.sum fun m c ↦ c • komlosTrunc f i m
+    with hT_def
+  have h_convex n : g n ∈ convexHull ℝ (Set.range fun m ↦ f (n + m)) := by
+    refine Convex.sum_mem (convex_convexHull ℝ _) (fun m _ ↦ (η n).nonneg m) (η n).total
+      fun m hm ↦ subset_convexHull ℝ _ ⟨m - n, ?_⟩
+    have hnm : n ≤ m := le_of_not_gt fun hlt ↦ Finsupp.mem_support_iff.mp hm (hη0 n m hlt)
+    exact congrArg f (Nat.add_sub_cancel' hnm)
```
Comment (TBUGTB) [inline BrownianMotion/StochasticIntegral/Komlos.lean]: You can replace this and the line above by `grind`

File: BrownianMotion/StochasticIntegral/Komlos.lean [hunk 6]
```diff
@@ -365,11 +365,123 @@ lemma komlos_convergence_L2
...
+      eLpNorm_congr_ae ((komlos_coeFn_sum_smul _ _ (hmem2 i)).sub EventuallyEq.rfl)
+  have hL1 i : Tendsto (fun n ↦ eLpNorm (T i n - ⇑(G i)) 1 P) atTop (𝓝 0) := by
+    have hκ : P Set.univ ^ (1 / (1 : ℝ≥0∞).toReal - 1 / (2 : ℝ≥0∞).toReal) ≠ ∞ :=
+      ENNReal.rpow_ne_top_of_nonneg (by norm_num) (measure_ne_top P _)
+    have hmul := ENNReal.Tendsto.mul_const (hL2 i) (.inr hκ)
+    rw [zero_mul] at hmul
+    exact tendsto_of_tendsto_of_tendsto_of_le_of_le tendsto_const_nhds hmul (fun n ↦ zero_le')
+      fun n ↦ eLpNorm_le_eLpNorm_mul_rpow_measure_univ one_le_two
+        ((hTmem2 i n).1.sub (Lp.aestronglyMeasurable (G i)))
+  have tri {u v w : Ω → E} (hu : AEStronglyMeasurable u P) (hv : AEStronglyMeasurable v P)
```
Comment (TBUGTB) [inline BrownianMotion/StochasticIntegral/Komlos.lean]: I believe this should be a separate lemma.

File: BrownianMotion/StochasticIntegral/Komlos.lean [hunk 7]
```diff
@@ -365,11 +365,123 @@ lemma komlos_convergence_L2
...
+      (hw : AEStronglyMeasurable w P) :
+      eLpNorm (u - w) 1 P ≤ eLpNorm (u - v) 1 P + eLpNorm (v - w) 1 P :=
+    sub_add_sub_cancel u v w ▸ eLpNorm_add_le (hu.sub hv) (hv.sub hw) le_rfl
+  have hcau : CauchySeq fun n ↦ (hgmem1 n).toLp (g n) := by
```
Comment (TBUGTB) [inline BrownianMotion/StochasticIntegral/Komlos.lean]: This is a have statement with a fairly long proof. Have you considered if it can be separated out from the proof? I'm not sure this makes sense because there are a lot of dependencies on the specific constructions in the proof of this lemma. But I at least wanted to suggest it.

**Review by TBUGTB — COMMENTED** [review]
Your reasoning definitely makes sense to me, we need the finiteness assumption on the measure even for the very first step in the proof to make sure that the truncated `f` is in L^2. I hadn't realized this when originally writing the statement. 

Can you claim the task and propose this PR as the implementation so it appears on the dashboard?

I left some comments here and there, please take them with a grain of salt since I'm not very experienced as a reviewer. But I hope this will reduce the reviewing work that Rémy has to do. 

Thanks again for working on this, overall your code looks very good!

**Comment by FrankieNC** [comment]
awaiting-review

File: BrownianMotion/StochasticIntegral/Komlos.lean (hunk 3 above)
Comment (TBUGTB) [reply BrownianMotion/StochasticIntegral/Komlos.lean]: I think you can remove at least `hnorm`, `hmeas` now and instead use the lemma directly where they appear. And probably it makes sense to do the same for `hmem2`, too.

File: BrownianMotion/StochasticIntegral/Komlos.lean (hunk 7 above)
Comment (FrankieNC) [reply BrownianMotion/StochasticIntegral/Komlos.lean]: In the latest commits I had a go at golfing this. I factored out the one self-contained estimate (`eLpNorm_weights_sum_sub_le`), but fully separating the `have` out doesn't help, since it depends on the local constructions (g/T, the L² limits G) and the Cauchy step already goes through `cauchySeq_toLp_of_eLpNorm_approx`. Not sure I can go further, but I'm open to suggestions.

Comment (TBUGTB) [reply BrownianMotion/StochasticIntegral/Komlos.lean]: That's fine I think in this case it wouldn't make sense to try to golf the have statement away.

File: BrownianMotion/StochasticIntegral/Komlos.lean [hunk 8]
```diff
@@ -367,11 +367,136 @@ lemma komlos_convergence_L2
     Tendsto (fun n ↦ eLpNorm (fun ω ↦ ((cw n).weights.sum (fun i wi ↦ wi • f' i n)) ω - lim ω) 2 P)
       atTop (𝓝 0) := by sorry
 
-theorem komlos_L1 [MeasurableSpace E] [BorelSpace E] {f : ℕ → Ω → E} {P : Measure Ω}
+private noncomputable def komlosTrunc (f : ℕ → Ω → E) (i m : ℕ) : Ω → E :=
```
Comment (TBUGTB) [inline BrownianMotion/StochasticIntegral/Komlos.lean]: Why not `i : ℝ` in the signature? And since only `f m` is appearing, couldn't we write this for `f : Ω → E` or would this make it too unergonomic where it gets used?

I also noticed there's [ProbabilityTheory.truncation](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Probability/StrongLaw.html#ProbabilityTheory.truncation) in Mathlib, but that would have to be generalized first before we could use it here.

File: BrownianMotion/StochasticIntegral/Komlos.lean [hunk 9]
```diff
@@ -367,11 +367,136 @@ lemma komlos_convergence_L2
...
+private lemma eLpNorm_sub_triangle {P : Measure Ω} {p : ℝ≥0∞} (hp : 1 ≤ p) {u v w : Ω → E}
+    (hu : AEStronglyMeasurable u P) (hv : AEStronglyMeasurable v P)
+    (hw : AEStronglyMeasurable w P) :
+    eLpNorm (u - w) p P ≤ eLpNorm (u - v) p P + eLpNorm (v - w) p P :=
+  sub_add_sub_cancel u v w ▸ eLpNorm_add_le (hu.sub hv) (hv.sub hw) hp
+
+omit [InnerProductSpace ℝ E] [CompleteSpace E] in
+private lemma cauchySeq_toLp_of_eLpNorm_approx {P : Measure Ω}
+    {g : ℕ → Ω → E} (hg : ∀ n, MemLp (g n) 1 P)
+    (happrox : ∀ ε : ℝ, 0 < ε → ∃ a : Ω → E, AEStronglyMeasurable a P ∧
```
Comment (TBUGTB) [inline BrownianMotion/StochasticIntegral/Komlos.lean:428]: I thought about whether ∀ ε, ∃ a can be expressed more succinctly in filter language, but it doesn't seem so. But we could use `∀ᶠ k in atTop` instead of the explicit `N`.

File: BrownianMotion/StochasticIntegral/Komlos.lean (hunk 8 above)
Comment (FrankieNC) [reply BrownianMotion/StochasticIntegral/Komlos.lean]: Thanks for your review! I have implemented most of your suggestions.

I did try `i : ℝ` as well and it compiles, but I went back to `ℕ` since it reads worse. The truncation levels are inherently natural here: `komlos_convex_weights_diagonal` quantifies over `i : ℕ`, and the level `i₀` controlling the `L¹` tail comes out of `komlosTrunc_tail_eLpNorm` over `ℕ`. So with a real `i` those levels just get coerced back to `↑i` everywhere, and I also have to carry a `0 ≤ i` assumption for the `‖komlosTrunc f i‖ ≤ i` bound,and the tail lemma now hands back a real threshold that I then have to round up with `⌈·⌉₊` to get a natural number again. The extra generality never actually gets used, so I think it only adds friction.

Comment (TBUGTB) [reply BrownianMotion/StochasticIntegral/Komlos.lean]: Okay, then let's stay with `i : ℕ` here!

**Review by TBUGTB — APPROVED** [review]
This looks good to me overall @RemyDegenne can you take a look?

**Comment by RemyDegenne** [comment]
Thanks for the PR, and thanks @TBUGTB for the reviews!
It looks good to me as well.
